US07582773B2
Step 1: Synthesis of [4-(1,3-Dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid methyl ester.
The desired product was prepared using a procedure similar to step 1 of example 4. Thus, 4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenol (0.300 g, 0.957 mmol) was reacted with K2CO3 (0.172 g, 1.244 mmol) and methyl bromoacetate (0.190 g, 1.244 mmol) in acetone (5 ml) to give the product (0.287 g, 0.745 mmol, 78%) as a white solid, mp 110-112° C.

reactant | 4-(1,3-dimethyl-2-phenyl-1H-indol-4-yl)-phenol | 0.957 mmol, 0.300 g | CN1C(=C(C2=C(C=CC=C12)C1=CC=C(C=C1)O)C)C1=CC=CC=C1 | C22H19NO
reactant | K2CO3 | 1.244 mmol, 0.172 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl bromoacetate | 1.244 mmol, 0.190 g | BrCC(=O)OC | C3H5BrO2
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | [4-(1,3-Dimethyl-2-phenyl-1H-indol-4-yl)-phenoxy]-acetic acid methyl ester | COC(COC1=CC=C(C=C1)C1=C2C(=C(N(C2=CC=C1)C)C1=CC=CC=C1)C)=O | C25H23NO3
